US06306860B1
5-[N-[2-(2-hydroxyethoxy)ethyl]carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine
By the same procedure as described in the example 25, the synthesis was carried out starting with 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester and using 2-(2-aminoethoxy)ethanol. And then, the product was recrystallized with acetone and hexane to give a desired compound.

reactant | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C20H25N5O3
reactant | 2-(2-aminoethoxy)ethanol | NCCOCCO | C4H11NO2
product | 5-[N-[2-(2-hydroxyethoxy)ethyl]carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine | Yield: 79% | OCCOCCNC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C | C23H32N6O4
